US06825355B2
A. Ethyl-2-amino-benzothiazole-6-carboxylate
A solution of ethyl-4-aminobenzoate (35 g, 212 mmol) in glacial acetic acid (300 mL) was added to a stirred solution of sodium thiocyanate (69 g, 848 mmol) in acetic acid (150 mL). The mixture was cooled in an ice-water bath and a solution of bromine (12 mL, 233 mmol) in acetic acid (60 mL) was added dropwise via an addition funnel. The reaction mixture was stirred at 0° C. to RT for 4 h and then poured into water (1.5 L). Saturated sodium carbonate solution was added to neutralize the solution. Precipitated solid was filtered, washed with water and EtOAc, and dried in vacuo to obtain the title compound of this step (31.65 g, 67.2% yield).

reactant | ethyl-4-aminobenzoate | 212 mmol, 35 g | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | sodium thiocyanate | 848 mmol, 69 g | [S-]C#N.[Na+]
reactant | bromine | 233 mmol, 12 mL | BrBr | Br2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | water | 1.5 L | O | H2O
product | Ethyl-2-amino-benzothiazole-6-carboxylate | 67.2% yield | C(C)OC(=O)C1=CC2=C(N=C(S2)N)C=C1 | C10H10N2O2S
